### ISSUE TITLE
to_additive has issues with proofs that use simp

### ISSUE THREAD

**Issue by Ruben-VandeVelde** [leanprover-community/mathlib4#1149]
For example, in #934, the following works:
```lean
@[to_additive]
theorem mul_sup [CovariantClass α α (· * ·) (· ≤ ·)] (a b c : α) : c * (a ⊔ b) = c * a ⊔ c * b := by
  refine' le_antisymm _ _
  · rw [← mul_le_mul_iff_left c⁻¹, ← mul_assoc, inv_mul_self, one_mul]
    refine sup_le ?_ ?_
    · simp only [mul_le_mul_iff_left, le_inv_mul_iff_mul_le, le_sup_left]
    · simp only [mul_le_mul_iff_left, le_inv_mul_iff_mul_le, le_sup_right]
  · simp only [mul_le_mul_iff_left, sup_le_iff, le_sup_left, le_sup_right, and_self]
```
but replacing any of the `simp only`s by plain `simp` yields errors like
```lean
application type mismatch
  @Mathlib.Algebra.Order.Group.Defs._auxLemma.5 α AddCommGroup.toAddGroup
argument has type
  AddGroup α
but function has type
  ∀ [inst : Group α] [inst_1 : LE α] [inst_2 : CovariantClass α α (fun x x_1 ↦ x * x_1) fun x x_1 ↦ x ≤ x_1]
    {a b c : α}, (b ≤ a⁻¹ * c) = (a * b ≤ c)
```

cc @fpvandoorn

**Comment by fpvandoorn** [comment]
Thanks for making an issue. Relevant Zulip: https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Algebra.2EGroup.2EOpposite
